US07884124B2
To a 20-mL scintillation vial fitted with a magnetic stir bar under a N2 atmosphere was added 3.5 mL of NaOH (2.0 M), and heated to 45° C. 5-((4-(4-chlorobenzyl)thiophen-2-yl)methylene)-2-thioxothiazolidin-4-one was added to the 2 M NaOH solution. After complete dissolution, the temperature of the reaction vial was increased to 60° C. over a 30 min period. The vial was subsequently cooled to 5° C. and cold 10% (v/v) aq. HCl solution was added until a precipitate formed (approx. pH 2-3). The resulting precipitate was collected by filtration, washed several times with water, and dried thoroughly under vacuum at 40° C. to give 3-(4-(4-chlorobenzyl)thiophen-2-yl)-2-mercaptoacrylic acid (379 mg, 95% yield). Note: 1H NMR showed a number of peaks in the aromatic region. The presence of the signal for the vinyl proton and the loss of the rhodanine moiety (i.e.; absence of the proton attached to the nitrogen in the rhodanine moiety) was used as an indicator of the desired compound. The material was used in the next step without further purification.

reactant | NaOH | 2.0 M, 3.5 mL | [OH-].[Na+]
reactant | 5-((4-(4-chlorobenzyl)thiophen-2-yl)methylene)-2-thioxothiazolidin-4-one | ClC1=CC=C(CC=2C=C(SC2)C=C2C(NC(S2)=S)=O)C=C1 | C15H10ClNOS3
reactant | NaOH | 2 M | [OH-].[Na+]
reactant | HCl | Cl | ClH
product | 3-(4-(4-chlorobenzyl)thiophen-2-yl)-2-mercaptoacrylic acid | 379 mg, 95% yield | ClC1=CC=C(CC=2C=C(SC2)C=C(C(=O)O)S)C=C1 | C14H11ClO2S2
